US04460584
To a solution of N-benzyloxycarbonylglycine (0.21 g.) in freshly distilled THF (5 ml.) was added N-methylmorpholine (0.1 g.). The resulting solution was stirred with cooling in an ice-salt bath, and a solution of i-butyl chloroformate (0.136 g.) in a small volume of THF was added in one portion. A precipitate formed immediately, and the mixture was stirred with cooling for 5 minutes. A solution of 4-[2-(2,2,2-trifluoroethyl)guanidino]-2-(5-aminopentyl)pyrimidine (0.35 g.) in THF (10 ml.) was gradually added. The mixture was stirred at room temperature for 2 hours, then evaporated in vacuo. Sodium bicarbonate solution was added to the residue and the mixture extracted with EtOAc. The extract was dried (MgSO4) and evaporated to give a pale yellow oil which was purified by medium pressure chromatography, eluting with 5% v/v MeOH in methylene chloride to give 4-[2-(2,2,2-trifluoroethyl)guanidino]-2-[5-(2-benzyloxycarbonylaminoacetylamino)pentyl]pyrimidine (0.17 g.) which was used without further purification.

reactant | N-benzyloxycarbonylglycine | 0.21 g | C(C1=CC=CC=C1)OC(=O)NCC(=O)O | C10H11NO4
reactant | N-methylmorpholine | 0.1 g | CN1CCOCC1 | C5H11NO
reactant | i-butyl chloroformate | 0.136 g | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 4-[2-(2,2,2-trifluoroethyl)guanidino]-2-(5-aminopentyl)pyrimidine | 0.35 g | FC(CN=C(NC1=NC(=NC=C1)CCCCCN)N)(F)F | C12H19F3N6
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 4-[2-(2,2,2-trifluoroethyl)guanidino]-2-[5-(2-benzyloxycarbonylaminoacetylamino)pentyl]pyrimidine | 0.17 g | FC(CN=C(NC1=NC(=NC=C1)CCCCCNC(CNC(=O)OCC1=CC=CC=C1)=O)N)(F)F | C22H28F3N7O3
